US06410561B1
To a solution of 4-(benzyloxy)phenol (10.01 g, 50 mmol) and bromoacetaldehyde diethyl acetal (7.52 ml, 50 mmol) in dimethylformamide (100 ml) was added potassium carbonate (10.37 g, 75 mmol) and the mixture was heated at 170° C. After 2.5 hr, the reaction mixture was cooled to room temperature. The mixture was diluted with water and ethyl acetate, and aqueous layer was removed. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 2-[4-(benzyloxy)phenoxy]acetaldehyde diethyl acetal (11.902 g, 75%, pale-brown oil).

reactant | 4-(benzyloxy)phenol | 50 mmol, 10.01 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | bromoacetaldehyde diethyl acetal | 50 mmol, 7.52 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium carbonate | 75 mmol, 10.37 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(benzyloxy)phenoxy]acetaldehyde diethyl acetal | 11.902 g, 75% | C(C)OC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)OCC | C19H24O4
